US09193741B2
Synthesis of 4-(4-(2-(4-chlorophenoxy)acetyl)piperazin-1-yl)-6-(4-fluorophenyl)-N-(2-methoxyethyl)thieno[2,3-d]pyrimidine-2-carboxamide
To a suspension of ethyl 4-(4-(2-(4-chlorophenoxy)acetyl)piperazin-1-yl)-6-(4-fluorophenyl)thieno[2,3-d]pyrimidine-2-carboxylate (30 mg, 0.05 mmol) in MeOH (7 ml) was added 2-methoxyethylamine (0.7 ml). The mixture was stirred at room temperature for 3 hours. The solvents were removed under reduced pressure and the crude residue was purified by flash chromatography on silica gel (CH2Cl2/MeOH 50:1) to yield the title compound as a white solid (29 mg, 92%).

reactant | ethyl 4-(4-(2-(4-chlorophenoxy)acetyl)piperazin-1-yl)-6-(4-fluorophenyl)thieno[2,3-d]pyrimidine-2-carboxylate | 0.05 mmol, 30 mg | ClC1=CC=C(OCC(=O)N2CCN(CC2)C=2C3=C(N=C(N2)C(=O)OCC)SC(=C3)C3=CC=C(C=C3)F)C=C1 | C27H24ClFN4O4S
reactant | 2-methoxyethylamine | 0.7 ml | COCCN | C3H9NO
solvent | MeOH | 7 ml | CO | CH4O
product | 4-(4-(2-(4-chlorophenoxy)acetyl)piperazin-1-yl)-6-(4-fluorophenyl)-N-(2-methoxyethyl)thieno[2,3-d]pyrimidine-2-carboxamide | 29 mg, 92% | ClC1=CC=C(OCC(=O)N2CCN(CC2)C=2C3=C(N=C(N2)C(=O)NCCOC)SC(=C3)C3=CC=C(C=C3)F)C=C1 | C28H27ClFN5O4S
